US05965490
1. Preparation of 2-Propylthio-3-(trifluoromethyl)anisole
A solution of 30 mL, (milliliter) (208 mmol) (millimole) of 3-(trifluoromethyl)anisole in 500 mL of dry tetrahydrofuran was cooled to -70° C. under a nitrogen blanket and 100 mL (250 mmol) of 2.5 M butyl lithium in hexane was added slowly with stirring and cooling. The reddish solution was stirred at -70° C. for 1 hour and then 42 mL (270 mmol) of dipropyl disulfide was added slowly with stirring and cooling. The resulting mixture was allowed to warm to ambient temperature over an 18-hour period. The mixture was quenched with 250 mL of saturated aqueous ammonium chloride. The organic phase was recovered, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The yellow oil residue was fractionally distilled in a Vigreux column at 0.2 mm Hg (millimeters of mercury) (27 Pascals) to obtain 37 g (gram) (71 percent of theory) of a clear liquid product fraction boiling at 92° C. This fraction was found to be 82 percent the title compound, 10 percent the isomer 2-propylthio-5-(trifluoromethyl)anisole.

reactant | 3-(trifluoromethyl)anisole | 208 mmol | FC(C=1C=C(C=CC1)OC)(F)F | C8H7F3O
reactant | butyl lithium | 250 mmol, 2.5 M, 100 mL | C(CCC)[Li]
reactant | dipropyl disulfide | 270 mmol, 42 mL | C(CC)SSCCC | C6H14S2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Propylthio-3-(trifluoromethyl)anisole | 82 percent | C(CC)SC1=C(C=CC=C1C(F)(F)F)OC | C11H13F3OS
